US04078006
By following in the same manner as in Example 53, except that 100 g. (819 m. moles) of 2,6-dimethylphenol were used instead of 3,5-dimethylphenol, 1.04 g. (7.5 m. moles) of 2,6-dimethylhydroquinone were obtained. The yield of dihydric alkylphenol was 14.7 percent.

reactant | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 3,5-dimethylphenol | CC=1C=C(C=C(C1)C)O | C8H10O
product | 2,6-dimethylhydroquinone | CC1=C(O)C(=CC(=C1)O)C | C8H10O2
